US09388189B2
(S)-2-(1-((2′,6-Diamino-[5,5′-bipyrimidin]-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one
(S)-2-(1-((6-Amino-5-iodopyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one (50 mg, 0.10 mol) was treated with 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyrimidin-2-amine (34 mg, 0.15 mmol), 1,1% bis(diphenylphosphino)ferrocene-palladium(II)dichloride dichloromethane complex (14 mg, 0.02 mol) and sodium carbonate (2M, 231 μl, 0.43 mol) according to the method described in Example 3 to give 13 mg (28% yield) of the title compound as a white solid. Purity 100%.

reactant | (S)-2-(1-((6-Amino-5-iodopyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 0.10 mol, 50 mg | NC1=C(C(=NC=N1)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C)I | C19H18IN7O
reactant | 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyrimidin-2-amine | 0.15 mmol, 34 mg | CC1(OB(OC1(C)C)C=1C=NC(=NC1)N)C | C10H16BN3O2
reactant | sodium carbonate | 0.43 mol, 2M, 231 μl | C([O-])([O-])=O.[Na+].[Na+]
product | (S)-2-(1-((2′,6-Diamino-[5,5′-bipyrimidin]-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 13 mg, 28% yield | NC1=NC=C(C=N1)C=1C(=NC=NC1N)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C | C23H22N10O
